US07166587B2
A solution of 0.47 g (1.69 mmol) (S)-7-amino-5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one in 15 ml tetrahydrofurane was treated at 0° C. with 0.17 g (1.86 mmol) L-lactic acid, 0.26 g (1.69 mmol) 1-hydroxybenzotriazole hydrate, 590 μl (3.38 mmol) N-ethyldiisopropylamine and 0.33 g (1.69 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochlorid. After stirring at room temperature overnight the mixture was extracted with 1N aqueous hydrochloric acid/ethylacetate. Purification by chromatography on silicagel with ethylacetate/cyclohexane (0-100/100-0) yielded 0.50 g (84%) (S)—N—((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-hydroxy-propionamide as white solid; MS: m/e: 351.4 (M+H+), [α] 589=−131° (1% in MeOH).

reactant | (S)-7-amino-5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one | 1.69 mmol, 0.47 g | N[C@H]1C2=C(C3=C(N(C1=O)CC1CC1)C=CC=C3)C=CC=C2 | C18H18N2O
reactant | L-lactic acid | 1.86 mmol, 0.17 g | C([C@@H](O)C)(=O)O | C3H6O3
reactant | 1-hydroxybenzotriazole hydrate | 1.69 mmol, 0.26 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 3.38 mmol, 590 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochlorid | 1.69 mmol, 0.33 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofurane | 15 ml | O1CCCC1 | C4H8O
product | (S)—N—((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-hydroxy-propionamide | 0.50 g, 84% | C1(CC1)CN1C2=C(C3=C([C@@H](C1=O)NC([C@H](C)O)=O)C=CC=C3)C=CC=C2 | C21H22N2O3
